US08835419B2
To a stirred solution of the (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenol (18.0 g, 56.9 mmol) in dichloromethane (150 mL) at 0° C. was added triethylamine (Et3N) (9.6 g, 91.0 mmol) and trifluoromethanesulfonic anhydride (TFA) (17.6 g, 62.6 mmol). The reaction mixture was stirred at 0° C. for 2 h, then warm to room temperature and stirred for 10 min. The solution was diluted with deionized water, extracted with dichloromethane (2×50 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 0-25% ethyl acetate in hexanes) to afford (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl trifluoromethanesulfonate as viscous oil (17.8 g, 39.7 mmol, 72%). 1HNMR (400 MHz, CDCl3) δ 7.40 (d, J=2.0 Hz, 1H), 7.25-7.23 (m, 2H), 7.16 (dd, J=1.6, 8.4 Hz, 1H), 6.49 (dd, J=2.8, 8.8 Hz, 1H), 6.05 (d, J=3.2, Hz, 1H), 4.91-4.89 (m, 1H), 4.88-4.83 (m, 1H), 1.58 (d, J=6.8 Hz, 3H).

reactant | (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenol | 56.9 mmol, 18.0 g | ClC1=C(C=C(C=C1)O)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C14H12Cl3NO
reactant | triethylamine | 91.0 mmol, 9.6 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 62.6 mmol, 17.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (R)-4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl trifluoromethanesulfonate | 39.7 mmol, 17.8 g, 72% | FC(S(=O)(=O)OC1=CC(=C(C=C1)Cl)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl)(F)F | C15H11Cl3F3NO3S
